*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.001/0.001


.subckt chiplet6
+nd_pad_port_0_1
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
*-- p/g port #: 4/5

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_1000 0 pwl(0 0.0 8.394e-01ns 0.0  8.894e-01ns 3.5e-03  9.201e-01ns 3.5e-03  9.701e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 321.241
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 5.90162e-14
id_0_0_0_1 nd_1_0_3000_1000 0 pwl(0 0.0 9.270e-02ns 0.0  1.427e-01ns 5.2e-04  6.863e-01ns 5.2e-04  7.363e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 291.284
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 4.69134e-13
id_0_0_0_2 nd_1_0_5000_1000 0 pwl(0 0.0 2.995e-01ns 0.0  3.495e-01ns 1.1e-03  5.960e-01ns 1.1e-03  6.460e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 268.808
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 4.47379e-14
id_0_0_0_3 nd_1_0_7000_1000 0 pwl(0 0.0 3.158e-01ns 0.0  3.658e-01ns 1.2e-03  6.165e-01ns 1.2e-03  6.665e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 248.858
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 4.60051e-13
id_0_0_0_4 nd_1_0_9000_1000 0 pwl(0 0.0 7.804e-01ns 0.0  8.304e-01ns 2.0e-03  8.831e-01ns 2.0e-03  9.331e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 433.129
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 2.72569e-13
id_0_0_0_5 nd_1_0_1000_3000 0 pwl(0 0.0 3.478e-01ns 0.0  3.978e-01ns 4.0e-04  9.293e-01ns 4.0e-04  9.793e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 384.182
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 5.82415e-14
id_0_0_0_6 nd_1_0_3000_3000 0 pwl(0 0.0 3.647e-01ns 0.0  4.147e-01ns 4.6e-04  9.376e-01ns 4.6e-04  9.876e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 343.921
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 7.63095e-14
id_0_0_0_7 nd_1_0_5000_3000 0 pwl(0 0.0 2.530e-01ns 0.0  3.030e-01ns 9.2e-04  6.239e-01ns 9.2e-04  6.739e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 263.276
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 1.10317e-13
id_0_0_0_8 nd_1_0_7000_3000 0 pwl(0 0.0 3.984e-01ns 0.0  4.484e-01ns 3.3e-03  4.544e-01ns 3.3e-03  5.044e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 483.077
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 2.74324e-13
id_0_0_0_9 nd_1_0_9000_3000 0 pwl(0 0.0 4.081e-01ns 0.0  4.581e-01ns 1.0e-04  7.177e-01ns 1.0e-04  7.677e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 2851.84
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 1.27707e-14
id_0_0_0_10 nd_1_0_1000_5000 0 pwl(0 0.0 4.252e-01ns 0.0  4.752e-01ns 8.2e-04  4.982e-01ns 8.2e-04  5.482e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 1509.79
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 2.62893e-14
id_0_0_0_11 nd_1_0_3000_5000 0 pwl(0 0.0 8.923e-01ns 0.0  9.423e-01ns 4.9e-03  9.467e-01ns 4.9e-03  9.967e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 336.612
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 4.23936e-13
id_0_0_0_12 nd_1_0_5000_5000 0 pwl(0 0.0 4.585e-01ns 0.0  5.085e-01ns 1.9e-03  5.439e-01ns 1.9e-03  5.939e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 543.383
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 8.50081e-14
id_0_0_0_13 nd_1_0_7000_5000 0 pwl(0 0.0 4.707e-01ns 0.0  5.207e-01ns 3.5e-05  7.784e-01ns 3.5e-05  8.284e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 8262.47
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 1.81057e-14
id_0_0_0_14 nd_1_0_9000_5000 0 pwl(0 0.0 4.868e-01ns 0.0  5.368e-01ns 7.2e-04  7.923e-01ns 7.2e-04  8.423e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 407.67
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 3.75845e-13
id_0_0_0_15 nd_1_0_1000_7000 0 pwl(0 0.0 5.039e-01ns 0.0  5.539e-01ns 2.4e-03  6.071e-01ns 2.4e-03  6.571e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 362.492
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 4.32268e-13
id_0_0_0_16 nd_1_0_3000_7000 0 pwl(0 0.0 6.768e-02ns 0.0  1.177e-01ns 4.6e-04  6.597e-01ns 4.6e-04  7.097e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 327.848
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 1.82141e-13
id_0_0_0_17 nd_1_0_5000_7000 0 pwl(0 0.0 5.319e-01ns 0.0  5.819e-01ns 1.2e-03  8.282e-01ns 1.2e-03  8.782e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 253.978
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 6.44664e-13
id_0_0_0_18 nd_1_0_7000_7000 0 pwl(0 0.0 5.487e-01ns 0.0  5.987e-01ns 6.1e-05  8.391e-01ns 6.1e-05  8.891e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 5074.6
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 3.9226e-14
id_0_0_0_19 nd_1_0_9000_7000 0 pwl(0 0.0 7.096e-01ns 0.0  7.596e-01ns 1.1e-03  9.240e-01ns 1.1e-03  9.740e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 398.291
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 2.56437e-13
id_0_0_0_20 nd_1_0_1000_9000 0 pwl(0 0.0 7.195e-01ns 0.0  7.695e-01ns 3.4e-04  9.283e-01ns 3.4e-04  9.783e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 1264.52
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 4.9013e-15
id_0_0_0_21 nd_1_0_3000_9000 0 pwl(0 0.0 2.889e-01ns 0.0  3.389e-01ns 3.4e-04  5.803e-01ns 3.4e-04  6.303e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 908.181
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 9.91925e-15
id_0_0_0_22 nd_1_0_5000_9000 0 pwl(0 0.0 3.059e-01ns 0.0  3.559e-01ns 2.2e-03  3.883e-01ns 2.2e-03  4.383e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 504.387
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 2.78839e-13
id_0_0_0_23 nd_1_0_7000_9000 0 pwl(0 0.0 8.950e-01ns 0.0  9.450e-01ns 4.2e-03  9.950e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 433.549
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 3.33679e-13
id_0_0_0_24 nd_1_0_9000_9000 0 pwl(0 0.0 1.111e-02ns 0.0  6.111e-02ns 8.7e-05  5.835e-01ns 8.7e-05  6.335e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 1817.55
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 8.13313e-14

*-- intentional decap
cd_decap_0_0_0_0 nd_1_0_1000_1000 0 1.61374e-10
cd_decap_0_0_0_1 nd_1_0_3000_1000 0 1.77971e-10
cd_decap_0_0_0_2 nd_1_0_5000_1000 0 1.92852e-10
cd_decap_0_0_0_3 nd_1_0_7000_1000 0 2.08312e-10
cd_decap_0_0_0_4 nd_1_0_9000_1000 0 1.19687e-10
cd_decap_0_0_0_5 nd_1_0_1000_3000 0 1.34936e-10
cd_decap_0_0_0_6 nd_1_0_3000_3000 0 1.50732e-10
cd_decap_0_0_0_7 nd_1_0_5000_3000 0 1.96904e-10
cd_decap_0_0_0_8 nd_1_0_7000_3000 0 1.07312e-10
cd_decap_0_0_0_9 nd_1_0_9000_3000 0 1.81778e-11
cd_decap_0_0_0_10 nd_1_0_1000_5000 0 3.43358e-11
cd_decap_0_0_0_11 nd_1_0_3000_5000 0 1.54005e-10
cd_decap_0_0_0_12 nd_1_0_5000_5000 0 9.54023e-11
cd_decap_0_0_0_13 nd_1_0_7000_5000 0 6.27415e-12
cd_decap_0_0_0_14 nd_1_0_9000_5000 0 1.27162e-10
cd_decap_0_0_0_15 nd_1_0_1000_7000 0 1.4301e-10
cd_decap_0_0_0_16 nd_1_0_3000_7000 0 1.58122e-10
cd_decap_0_0_0_17 nd_1_0_5000_7000 0 2.04112e-10
cd_decap_0_0_0_18 nd_1_0_7000_7000 0 1.02156e-11
cd_decap_0_0_0_19 nd_1_0_9000_7000 0 1.30156e-10
cd_decap_0_0_0_20 nd_1_0_1000_9000 0 4.09959e-11
cd_decap_0_0_0_21 nd_1_0_3000_9000 0 5.70811e-11
cd_decap_0_0_0_22 nd_1_0_5000_9000 0 1.02778e-10
cd_decap_0_0_0_23 nd_1_0_7000_9000 0 1.19571e-10
cd_decap_0_0_0_24 nd_1_0_9000_9000 0 2.8522e-11

*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_3000_5000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_5000_3000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_5000_7000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_7000_5000  0.001

.ends chiplet6
